US06329536B1
Ethyl 3,3-dimethylhexanoate (from above) (280 g, 1.63 mol), ethyl alcohol (400 mL) and aqueous sodium hydroxide solution (98 g, 2.45 mol, in 200 mL of water) were added to a 2-L round flask equipped with a stirring bar. The solution was then heated to refluxing temperature and stirred for 24 hours. After the reaction was finished, most of the solvents were removed by evaporation. The residue was taken up in 500 mL of ice water. It was then acidified to pH=3 with HCl (10%, w. ˜500 mL). The mixture was extracted with MTBE (3×500 mL). The combined MTBE extracts were washed with brine (2×50 mL) and dried over magnesium sulfate (˜40 g). The drying reagent was filtered and the MTBE was removed to give 223 g of 3,3-dimethylhexanoic acid (yield 95.1%). 1H NMR (CDCl3/300 MHz): δ2.25(s, 2H), 1.32-1.26(m, 4H), 1.02(s, 6H), 0.90(m, 3H) ppm; 13C NMR (CDCl3/300 MHz): δ179.0, 45.8, 44.6, 33.2, 27.2, 17.5, 14.8 ppm; MS 162 (M++NH4+).

reactant | Ethyl 3,3-dimethylhexanoate | 1.63 mol, 280 g | CC(CC(=O)OCC)(CCC)C | C10H20O2
reactant | sodium hydroxide | 2.45 mol, 200 mL, 98 g | [OH-].[Na+]
solvent | ethyl alcohol | 400 mL | C(C)O | C2H6O
product | 3,3-dimethylhexanoic acid | 223 g, yield 95.1% | CC(CC(=O)O)(CCC)C | C8H16O2
